US05075304
e. N-ethoxalyl-4-chloro-6-nitro-2-trifluoromethyl-aniline
A solution of N-ethoxalyl-4-chloro-2-trifluoromethylaniline in concentrated sulphuric acid (125 ml) was added to a stirred mixture of 100% nitric acid (120 ml) and concentrated sulphuric acid (240 ml). The temperature was kept between 8°-10° C. during the addition. After the addition was completed, the solution was stirred for additionally 20 min. without external cooling, whereafter it was poured onto icewater. This afforded precipitation of the title compound as an oil, which crystallized as light yellow crystals upon standing. The crystals were filtered off and washed extensively with water. M.p. 100°-101° C.

reactant | N-ethoxalyl-4-chloro-2-trifluoromethylaniline | C(=O)(C(=O)OCC)NC1=C(C=C(C=C1)Cl)C(F)(F)F | C11H9ClF3NO3
reactant | nitric acid | 120 ml | [N+](=O)(O)[O-] | HNO3
solvent | sulphuric acid | 125 ml | S(O)(O)(=O)=O | H2O4S
solvent | sulphuric acid | 240 ml | S(O)(O)(=O)=O | H2O4S
product | N-ethoxalyl-4-chloro-6-nitro-2-trifluoromethyl-aniline | C(=O)(C(=O)OCC)NC1=C(C=C(C=C1[N+](=O)[O-])Cl)C(F)(F)F | C11H8ClF3N2O5
